US07544672B2
5-(2-amino-4-chloro-7-((4-methoxy-3,5-dimethylpyridin-2-yl)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylpent-4-yn-2-ol
Sonogashira coupling of 4-chloro-5-iodo-7-((4-methoxy-3,5-dimethylpyridin-2-yl)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-amine with 2-methylpent-4-yn-2-ol (H. Zhang et al., Tetrahedron Lett. 1999, 40, 7851) according to the general procedure A gave the title compound, as a solid. Mp=163-165° C. HPLC Rt=4.98 min.

reactant | 4-chloro-5-iodo-7-((4-methoxy-3,5-dimethylpyridin-2-yl)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-amine | ClC=1C2=C(N=C(N1)N)N(C=C2I)CC2=NC=C(C(=C2C)OC)C | C15H15ClIN5O
reactant | 2-methylpent-4-yn-2-ol | CC(C)(CC#C)O | C6H10O
product | 5-(2-amino-4-chloro-7-((4-methoxy-3,5-dimethylpyridin-2-yl)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylpent-4-yn-2-ol | NC=1N=C(C2=C(N1)N(C=C2C#CCC(C)(O)C)CC2=NC=C(C(=C2C)OC)C)Cl | C21H24ClN5O2
